US07989438B2
Step 9: (7S)-7-[(1-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid
A solution of methyl (7S)-7-[(1-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (7 mM) in MeOH was treated with 2 N NaOH (10 eq). The mixture was stirred at 60° C. for 3 h. MeOH was eliminated in vacuo, the residue was dissolved in EtOAc and neutralized by adding 6 N HCl. The aqueous was extracted with EtOAc and the organics combined, washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to afford the product. The material was taken on without further purification. (ES+) m/z 711 (M+H)+.

reactant | methyl (7S)-7-[(1-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 7 mM | C(C)(C)(C)OC(=O)NS(=O)(=O)N(CCN1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)C | C38H52N4O8S
reactant | NaOH | 2 N, 10 eq | [OH-].[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (7S)-7-[(1-{2-[{[(tert-butoxycarbonyl)amino]sulfonyl}(methyl)amino]ethyl}pyrrolidin-2-yl)methoxy]-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid | C(C)(C)(C)OC(=O)NS(=O)(=O)N(CCN1C(CCC1)CO[C@@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)O)C=CC=C2)C | C37H50N4O8S
